US08357703B2
e) N-Isopropyl-6-[5-methyl-3-cyclohexyl-isoxazol-4-ylmethoxy]-nicotinamide
As described for example 30d, 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (708 mg, 1.5 mmol), instead of 6-(3-cyclopentyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester, was converted to the title compound (19 mg, 4%) which was obtained as a white solid after purification by chromatography (silica, 0 to 5% methanol in dichloromethane) and trituration with diisopropyl ether. MS: m/e=358.5 [M+H]+.

reactant | 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 1.5 mmol, 708 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCCCC1)=O | C18H22N2O4
reactant | 6-(3-cyclopentyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCCC1)=O | C17H20N2O4
product | N-Isopropyl-6-[5-methyl-3-cyclohexyl-isoxazol-4-ylmethoxy]-nicotinamide | 19 mg, 4% | C(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCCCC1)=O | C20H27N3O3
